* E:\project\e_sim_layout\avsdvco_1v8\avsdvco_1v8.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 8/14/2021 9:36:26 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
M25  Net-_M11-Pad2_ Net-_M11-Pad2_ Net-_M1-Pad4_ Net-_M1-Pad4_ mosfet_p		
M11  Net-_M1-Pad3_ Net-_M11-Pad2_ Net-_M1-Pad4_ Net-_M1-Pad4_ mosfet_p		
M12  Net-_M12-Pad1_ Net-_M11-Pad2_ Net-_M1-Pad4_ Net-_M1-Pad4_ mosfet_p		
M13  Net-_M13-Pad1_ Net-_M11-Pad2_ Net-_M1-Pad4_ Net-_M1-Pad4_ mosfet_p		
M14  Net-_M14-Pad1_ Net-_M11-Pad2_ Net-_M1-Pad4_ Net-_M1-Pad4_ mosfet_p		
M15  Net-_M15-Pad1_ Net-_M11-Pad2_ Net-_M1-Pad4_ Net-_M1-Pad4_ mosfet_p		
M21  Net-_M21-Pad1_ Net-_M1-Pad2_ Net-_M1-Pad4_ Net-_M1-Pad4_ mosfet_p		
M23  F_out Net-_M21-Pad1_ Net-_M1-Pad4_ Net-_M1-Pad4_ mosfet_p		
M1  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad4_ mosfet_p		
M3  Net-_M3-Pad1_ Net-_M1-Pad1_ Net-_M12-Pad1_ Net-_M1-Pad4_ mosfet_p		
M5  Net-_M5-Pad1_ Net-_M3-Pad1_ Net-_M13-Pad1_ Net-_M1-Pad4_ mosfet_p		
M7  Net-_M10-Pad2_ Net-_M5-Pad1_ Net-_M14-Pad1_ Net-_M1-Pad4_ mosfet_p		
M9  Net-_M1-Pad2_ Net-_M10-Pad2_ Net-_M15-Pad1_ Net-_M1-Pad4_ mosfet_p		
M2  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M16-Pad1_ GND mosfet_n		
M4  Net-_M3-Pad1_ Net-_M1-Pad1_ Net-_M17-Pad1_ GND mosfet_n		
M6  Net-_M5-Pad1_ Net-_M3-Pad1_ Net-_M18-Pad1_ GND mosfet_n		
M8  Net-_M10-Pad2_ Net-_M5-Pad1_ Net-_M19-Pad1_ GND mosfet_n		
M10  Net-_M1-Pad2_ Net-_M10-Pad2_ Net-_M10-Pad3_ GND mosfet_n		
M22  Net-_M21-Pad1_ Net-_M1-Pad2_ GND GND mosfet_n		
M24  F_out Net-_M21-Pad1_ GND GND mosfet_n		
M16  Net-_M16-Pad1_ Net-_M16-Pad2_ GND GND mosfet_n		
M17  Net-_M17-Pad1_ Net-_M16-Pad2_ GND GND mosfet_n		
M18  Net-_M18-Pad1_ Net-_M16-Pad2_ GND GND mosfet_n		
M19  Net-_M19-Pad1_ Net-_M16-Pad2_ GND GND mosfet_n		
M20  Net-_M10-Pad3_ Net-_M16-Pad2_ GND GND mosfet_n		
M26  Net-_M11-Pad2_ Net-_M16-Pad2_ GND GND mosfet_n		
VDD1  Net-_M1-Pad4_ GND 1.8		
VCTRL1  Net-_M16-Pad2_ GND DC		

.end
